US08030302B2
5-(Benzyloxy)-6-bromo-1H-indazole
To a solution of 6-bromo-5-hydroxy-1H-indazole (5 g, 23.5 mmol) in THF (50 mL) is added benzyl alcohol (3.05 g, 28.2 mmol), PPh3 (7.39 g, 28.2 mmol) and diethylazodicarboxylate (4.46 mL, 28.2 mmol). After the reaction mixture is stirred at RT overnight, EtOAc (50 mL) and saturated aqueous NH4Cl (30 mL) are added. The organic phase is separated, dried over MgSO4, and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (4:1) to provide the product (5.0 g, 70.2% yield). MS (m/z): 303.0 (M+H).

reactant | 6-bromo-5-hydroxy-1H-indazole | 23.5 mmol, 5 g | BrC1=C(C=C2C=NNC2=C1)O | C7H5BrN2O
reactant | benzyl alcohol | 28.2 mmol, 3.05 g | C(C1=CC=CC=C1)O | C7H8O
reactant | PPh3 | 28.2 mmol, 7.39 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethylazodicarboxylate | 28.2 mmol, 4.46 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-(Benzyloxy)-6-bromo-1H-indazole | 5.0 g, 70.2% yield | C(C1=CC=CC=C1)OC=1C=C2C=NNC2=CC1Br | C14H11BrN2O
